US05824691
Methyl 3-(3-trifluoromethylsulfonylaminophenyl)-benzoate (1.7 g) was added to the mixture of guanidine hydrochloride (2.26 g) and 28% methanolic sodium methoxide (4.1 ml) in N,N-dimethylformamide (17 ml) and the reaction mixture was stirred for 6 hours at ambient temperature. After evaporating the solvent, the residue was poured into the mixture of ethyl acetate (50 ml) and water (50 ml). The mixture was adjusted to pH 6.2 with 10% hydrochloric acid. The crystalline product was collected by filtration, washed successively with water and methanol and dried in vacuo to afford 2-[3-(3-trifluoromethylsulfonylaminophenyl) benzoyl]guanidine (0.28 g).

reactant | Methyl 3-(3-trifluoromethylsulfonylaminophenyl)-benzoate | 1.7 g | FC(S(=O)(=O)NC=1C=C(C=CC1)C=1C=C(C(=O)OC)C=CC1)(F)F | C15H12F3NO4S
reactant | guanidine hydrochloride | 2.26 g | Cl.NC(=N)N
reactant | sodium methoxide | 4.1 ml | C[O-].[Na+]
solvent | N,N-dimethylformamide | 17 ml | CN(C=O)C | C3H7NO
product | 2-[3-(3-trifluoromethylsulfonylaminophenyl) benzoyl]guanidine | 0.28 g | FC(S(=O)(=O)NC=1C=C(C=CC1)C=1C=C(C(=O)N=C(N)N)C=CC1)(F)F | C15H13F3N4O3S
